US07745641B2
In a similar manner to Step 2 of Example 6, 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (0.582 g, 1.38 mmol) was dissolved in acetonitrile (15.0 mL), and the solution was treated with pyrrolidine (2.30 mL, 27.8 mmol), acetic acid (1.60 mL, 27.8 mmol) and sodium triacetoxyborohydride (0.876 g, 4.13 mmol), followed by purification by flash column chromatography (chloroform/methanol=85/15) to obtain 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone (0.200 g, 30%).

reactant | 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 1.38 mmol, 0.582 g | OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C23H22N2O6
reactant | pyrrolidine | 27.8 mmol, 2.30 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 27.8 mmol, 1.60 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.13 mmol, 0.876 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 15.0 mL | C(C)#N | C2H3N
product | 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.200 g, 30% | OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN1CCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O5
